US04039543
A suspension of 7.4 g. of 3',5'-bis(dimethylamino)-2-methylsulfonylacetophenone and 3.8 g. of sodium borohydride in 100 ml. of ethanol was stirred for 20 hours at 25° C. After the addition of 50 ml. of water, the alcohol was removed in vacuo and the remaining aqueous suspension extracted with 400 ml. of ethyl acetate. The ethyl acetate phases were washed with 50 ml. of water, dried over magnesium sulfate and evaporated to dryness in vacuo. Recrystallization of the residue from ethanol gave 3,5-bis(dimethylamino)- α -[(methylsulfonyl)-methyl]-benzyl alcohol, having a melting point of 142°-143° C.

reactant | 3',5'-bis(dimethylamino)-2-methylsulfonylacetophenone | CN(C=1C=C(C=C(C1)N(C)C)C(CS(=O)(=O)C)=O)C | C13H20N2O3S
reactant | sodium borohydride | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3,5-bis(dimethylamino)- α -[(methylsulfonyl)-methyl]-benzyl alcohol | CN(C=1C=C(C(CS(=O)(=O)C)O)C=C(C1)N(C)C)C | C13H22N2O3S
